US04816587
Preparation of 2-chloronicergoline (8-[(5-bromonicotinoyl)oxymethyl]-2-chloro-1,6-dimethyl-10-methoxyergoline)
Following the process of Example 25, 1 g of nicergoline (8-[(5-bromonicotinoyl)oxymethyl]-1,6-dimethyl-10-methoxyergoline) is reacted with 1.6 ml of trimethylchlorosilane and the obtained product is isolated by chromatography on a Kieselgel column, using a 7:3 mixture of benzene and acetone as eluant, to give the title compound in a yield of 0.65 g (0.00125 mole, 60%).

reactant | nicergoline | 1 g | CN1C=C2C3=C1C=CC=C3[C@]4(C[C@H](CN([C@@H]4C2)C)COC(=O)C5=CC(=CN=C5)Br)OC | C24H26BrN3O3
reactant | trimethylchlorosilane | 1.6 ml | C[Si](Cl)(C)C | C3H9ClSi
reactant | benzene | C1=CC=CC=C1 | C6H6
solvent | acetone | CC(=O)C | C3H6O
product | 8-[(5-bromonicotinoyl)oxymethyl]-2-chloro-1,6-dimethyl-10-methoxyergoline | BrC=1C=NC=C(C(=O)OCC2CN([C@@H]3CC4=C(N(C5=CC=CC([C@]3(C2)OC)=C45)C)Cl)C)C1 | C24H25BrClN3O3
